US05409943
(a) N-[3-(2-Methylbenzyloxy)pyrid-2-yl]-N'-phenylthiourea
A mixture of 2-amino-3-(2-methylbenzyloxy)pyridine (1.67 g, 0.0078 mol), phenyl isothiocyanate (1.26 g, 0.0093 mol) and toluene (10 ml) was refluxed for 3.5 hours, then cooled and treated with ether to induce crystallisation of the product. Yield 1.8 g (66%), m.p. 150°-151 ° C.

reactant | 2-amino-3-(2-methylbenzyloxy)pyridine | 0.0078 mol, 1.67 g | NC1=NC=CC=C1OCC1=C(C=CC=C1)C | C13H14N2O
reactant | phenyl isothiocyanate | 0.0093 mol, 1.26 g | C1(=CC=CC=C1)N=C=S | C7H5NS
reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | ether | CCOCC | C4H10O
product | N-[3-(2-Methylbenzyloxy)pyrid-2-yl]-N'-phenylthiourea | CC1=C(COC=2C(=NC=CC2)NC(=S)NC2=CC=CC=C2)C=CC=C1 | C20H19N3OS
